US05216026
Preparation of N-(4-chlorophenyl)-N'-1-propanesulfonylurea
Procedure A was followed with 1-propanesulfonamide (5.0 g, 40.6 mmole), in acetone (40 ml), and 1.0N sodium hydroxide (40.6 ml). After ten minutes of stirring, 4-chlorophenyl isocyanate (6.2 g, 40.6 mmole) dissolved in about 40 ml of acetone was added over a five minute period. The mixture was allowed to stir for about two hours and filtered. The filtered solid was washed with water which dissolved most of it. 1N HCl (40 ml) was added to the combined filtrates and the resulting precipitate was filtered off and dried at about 65° C. under vacuum to provide 7.2 g of product.

reactant | 1-propanesulfonamide | 40.6 mmole, 5.0 g | C(CC)S(=O)(=O)N | C3H9NO2S
reactant | sodium hydroxide | 1.0N, 40.6 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 40.6 mmole, 6.2 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | about 40 ml | CC(=O)C | C3H6O
product | N-(4-chlorophenyl)-N'-1-propanesulfonylurea | 7.2 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)CCC | C10H13ClN2O3S
